US08309580B2
A mixture of 2-(5-bromo-2-methylthiophen-3-yl)-1,3-dioxolane (1.7 g), 2-methoxy-5-pyridineboronic acid (1.3 g), tetrakis(triphenylphosphine)palladium(0) (0.4 g), 2N aqueous sodium carbonate solution (10 mL) and 1,2-dimethoxyethane (20 mL) was stirred under reflux overnight under an argon atmosphere. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (0% ethyl acetate/hexane to 30% ethyl acetate/hexane) to give 5-[4-(1,3-dioxolan-2-yl)-5-methylthiophen-2-yl]-2-methoxypyridine as an oil. The obtained 5-[4-(1,3-dioxolan-2-yl)-5-methylthiophen-2-yl]-2-methoxypyridine was dissolved in tetrahydrofuran (10 mL), 1N hydrochloric acid (10 mL) was added, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate, the solvent was evaporated under reduced pressure, and the residue was crystallized from ethyl acetate/hexane to give the title compound (1.2 g, 75%) as a white solid.

reactant | 2-(5-bromo-2-methylthiophen-3-yl)-1,3-dioxolane | 1.7 g | BrC1=CC(=C(S1)C)C1OCCO1 | C8H9BrO2S
reactant | 2-methoxy-5-pyridineboronic acid | 1.3 g | COC1=NC=C(C=C1)B(O)O | C6H8BNO3
reactant | sodium carbonate | 2N, 10 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | 5-[4-(1,3-dioxolan-2-yl)-5-methylthiophen-2-yl]-2-methoxypyridine | O1C(OCC1)C=1C=C(SC1C)C=1C=CC(=NC1)OC | C14H15NO3S
